US07737179B2
Preparation of [(2-Acetoxy-ethyl)-ethoxycarbonylmethyl-amino]-acetic acid ethyl ester
To N-(2-hydroxyethyl)iminodiacetic acid (2.0 g, 11.3 mmol) in 250 mL EtOH was added concentrated HCl (1 mL, 12 mmol). The mixture was stirred for 24 h at rt and concentrated. The residue was partitioned in diethyl ether (150 mL) and NaHCO3 (100 mL, 10% wt). After layer separation, the organic phase was washed with aqueous NaHCO3 (2×50 mL) and dried over Na2SO4 and concentrated and dried under high vacuum. To this crude product in dichloromethane (70 mL) and triethylamine (2.5 g, 24.7 mmol) and was added acetyl chloride (1.57 g, 20 mmol) dropwise. The mixture was stirred at rt for 2 h and diluted with ether (120 mL), washed with 1% NaHCO3 (3×70 mL) and dried over Na2SO4. The solvent was removed under reduced pressure and the residue was chromatographed (Et2O/hexane) to afford a clear oil (1.4 g). 1H-NMR (CD3OD, 300 MHz) δ (ppm): 4.17-4.09 (m, 6H), 3.57 (s, 4H), 3.00 (t, J=5.7 Hz, 2H), 2.03 (s, 3H), 1.23 (t, J=7.1 Hz, 6H); 13C-NMR δ (ppm) 171.1, 170.9, 62.9, 60.5, 55.6, 52.7, 20.9, 14.2; (ESI) m/z: 276 (M+H+, 100).

reactant | N-(2-hydroxyethyl)iminodiacetic acid | 11.3 mmol, 2.0 g | OCCN(CC(=O)O)CC(=O)O | C6H11NO5
reactant | HCl | 12 mmol, 1 mL | Cl | ClH
reactant | triethylamine | 24.7 mmol, 2.5 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 20 mmol, 1.57 g | C(C)(=O)Cl | C2H3ClO
reactant | EtOH | 250 mL | CCO | C2H6O
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
solvent | ether | 120 mL | CCOCC | C4H10O
product | [(2-Acetoxy-ethyl)-ethoxycarbonylmethyl-amino]-acetic acid ethyl ester | 1.4 g | C(C)OC(CN(CC(=O)OCC)CCOC(C)=O)=O | C12H21NO6
